US08455566B2
Desmodur I® isopherone diisocyanate and dicyclohexylmethane diisocyanate were obtained from Bayer MaterialScience LLC (Pittsburgh, Pa.). Poly-propylene glycol monomethacrylate was provided by The Sartomer Company (Exton, Pa.). 4-Hydroxybutyl methacrylate, 4-methoxyphenol (“MEHQ”), poly-caprolactone 2-(methacryloyloxy)ethyl ester, and dibutyltin dilaurate were obtained from Aldrich Chemical Company (Milwaukee, Wis.). Caprolactone was obtained from Dow Chemical Company (Midland, Mich.). 1,4-cyclohexanedimethanol (CAS #105-08-8, Eastman product code # CHDM-D) was obtained from Eastman Chemical Company (Kingsport, Tenn.), Triethylene glycol dimethacrylate (“TEGDMA”) was obtained from EssTech (Essington, Pa.), product code product code X 943-7424, inhibited with hydroquinone (50-70 ppm). Photosensitizers were obtained from Aldrich Chemical Company (Milwaukee, Wis.): camphorquinone (97%, catalogue #12, 489-3) and ethyl 4-dimethylaminobenzoate (99+%, catalogue #E2, 490-5). Aerosil® OX-50 fumed silica was obtained from Degussa (Dusseldorf, Germany). Schott 8235 UF1.5 glass powder was obtained from Schott AG (Mainz, Germany); it had a mean diameter, d50, of 1.5 μm and was treated with C10H20O5Si to a level of 2.3 wt % silane. Aerosil® R972 hydrophobic fumed silica was obtained from Degussa (Dusseldorf, Germany). Schott GM 27884 glass powder (d50=0.7 μm, 6 wt % silanized) was obtained from Schott AG (Mainz, Germany). Ethoxylated(6) bisphenol A (“6-EO”) was obtained from the Sartomer Company (Exton, Pa.). CL-CHDM was prepared according to the method described in U.S. Pat. No. 5,159,047

reactant | 4-Hydroxybutyl methacrylate | C(C(=C)C)(=O)OCCCCO | C8H14O3
reactant | 4-methoxyphenol | COC1=CC=C(C=C1)O | C7H8O2
reactant | dibutyltin dilaurate | C(CCCCCCCCCCC)(=O)[O-].C(CCCCCCCCCCC)(=O)[O-].C(CCC)[Sn+2]CCCC
reactant | Caprolactone | C1(CCCCCO1)=O | C6H10O2
reactant | 1,4-cyclohexanedimethanol | C1(CCC(CC1)CO)CO | C8H16O2
reactant | Triethylene glycol dimethacrylate | C(C(=C)C)(=O)OCCOCCOCCOC(C(=C)C)=O | C14H22O6
reactant | hydroquinone | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | camphorquinone | C12(C(=O)C(=O)C(CC1)C2(C)C)C | C10H14O2
reactant | ethyl 4-dimethylaminobenzoate | CN(C1=CC=C(C(=O)OCC)C=C1)C | C11H15NO2
reactant | Aerosil | O=[Si]=O | O2Si
reactant | silane | [SiH4] | H4Si
product | bisphenol A | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
